US09145407B2
2-(2-Aminopyridin-4-yl)-4-fluorophenol
Argon was bubbled through a suspension of (5-fluoro-2-hydroxyphenyl)boronic acid (55.0 mg, 0.35 mmol), 4-bromopyridin-2-amine (67.1 mg, 0.39 mmol) and sodium carbonate (0.15 g, 1.4 mmol) in 1,4-dioxane (0.9 mL) and water (0.3 mL) for 5 minutes then tetrakis(triphenylphosphine)palladium(0) (41 mg, 0.04 mmol) was added. The resulting mixture was heated at 85° C. for 22 hours then cooled to ambient temperature and diluted with ethyl acetate and water. The layers were separated and the aqueous layer extracted with ethyl acetate. The combined organic extracts were dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by automated silica gel flash chromatography (0% to 100% ethyl acetate in hexanes gradient elution) to afford the title compound as a light tan solid (62 mg).

reactant | (5-fluoro-2-hydroxyphenyl)boronic acid | 0.35 mmol, 55.0 mg | FC=1C=CC(=C(C1)B(O)O)O | C6H6BFO3
reactant | 4-bromopyridin-2-amine | 0.39 mmol, 67.1 mg | BrC1=CC(=NC=C1)N | C5H5BrN2
reactant | sodium carbonate | 1.4 mmol, 0.15 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 0.9 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.3 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.04 mmol, 41 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(2-Aminopyridin-4-yl)-4-fluorophenol | 62 mg | NC1=NC=CC(=C1)C1=C(C=CC(=C1)F)O | C11H9FN2O
